Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Lipitor / Lisinopril
 
Attending: ___.
 
Chief Complaint:
left knee infection
 
Major Surgical or Invasive Procedure:
repeat left knee I&D with abx spacer exchange

 
History of Present Illness:
Mr ___ underwent resection arthroplasty, all components, 
with placement of abx spacer and concurrent 6 week course of IV 
abx.  Unfortunately, his lab values were suspicious for 
continued infection.  He presents today for repeat I&D and abx 
spacer exchange.
 
Past Medical History:
HTN, HLIPID, AS, CRI, L knee repl ___, Sleep apnea (CPAP), Basal 
cell/Sq cell CA, Nasal polyps, Depression, Obesity, BPH, Memory 
loss, Appy, Partial uvulectomy, Probable lacunar infarct, 
Glaucoma 
 
Social History:
___
Family History:
NC
 
Physical Exam:
well appearing, well nourished ___ year old male
alert and oriented
no acute distress
LLE:
 -dressing-c/d/i
 -incision-c/d/i, no erythema or drainage.  ++ ecchymosis and 
edema
 -+AT, FHL, ___
 -SILT
 -brisk cap refill
 -calf-soft, nontender
 -NVI distally
 
Pertinent Results:
___ 09:30PM BLOOD WBC-15.9* RBC-3.58* Hgb-10.3* Hct-30.0* 
MCV-84 MCH-28.8 MCHC-34.4 RDW-13.6 Plt ___
___ 06:43AM BLOOD WBC-13.4* RBC-2.94* Hgb-8.5* Hct-24.5* 
MCV-83 MCH-29.0 MCHC-34.9 RDW-13.5 Plt ___
___ 03:30AM BLOOD WBC-12.0* RBC-3.12* Hgb-9.4* Hct-26.4* 
MCV-85 MCH-30.0 MCHC-35.5* RDW-13.5 Plt ___
___ 07:18AM BLOOD WBC-15.8* RBC-2.85* Hgb-8.6* Hct-24.0* 
MCV-84 MCH-30.2 MCHC-35.8* RDW-14.0 Plt ___
___ 06:45AM BLOOD WBC-13.9* RBC-2.68* Hgb-7.9* Hct-23.5* 
MCV-88 MCH-29.5 MCHC-33.7 RDW-14.0 Plt ___
___ 06:30AM BLOOD WBC-12.2* RBC-3.21* Hgb-9.2* Hct-27.3* 
MCV-85 MCH-28.5 MCHC-33.5 RDW-14.1 Plt ___
___ 10:16AM BLOOD WBC-9.5 RBC-3.06* Hgb-9.0* Hct-26.6* 
MCV-87 MCH-29.3 MCHC-33.7 RDW-13.9 Plt ___
___ 01:30AM BLOOD WBC-9.1 RBC-3.00* Hgb-9.0* Hct-24.7* 
MCV-82 MCH-30.2 MCHC-36.6* RDW-14.0 Plt ___
___ 06:55AM BLOOD WBC-10.8 RBC-3.36* Hgb-9.9* Hct-28.9* 
MCV-86 MCH-29.5 MCHC-34.3 RDW-13.9 Plt ___
___ 06:43AM BLOOD Glucose-181* UreaN-26* Creat-1.6* Na-134 
K-4.6 Cl-99 HCO3-26 AnGap-14
___ 03:30AM BLOOD Glucose-125* UreaN-26* Creat-1.8* Na-135 
K-3.8 Cl-99 HCO3-26 AnGap-14
___ 07:18AM BLOOD Glucose-106* UreaN-26* Creat-1.6* Na-133 
K-3.9 Cl-98 HCO3-26 AnGap-13
___ 08:26AM BLOOD Glucose-118* UreaN-24* Creat-1.5* Na-133 
K-3.7 Cl-98 HCO3-26 AnGap-13
___ 06:30AM BLOOD Glucose-131* UreaN-22* Creat-1.5* Na-137 
K-3.6 Cl-102 HCO3-28 AnGap-11
___ 10:16AM BLOOD Glucose-92 UreaN-21* Creat-1.4* Na-136 
K-3.5 Cl-102 HCO3-26 AnGap-12
___ 01:30AM BLOOD Glucose-94 UreaN-18 Creat-1.5* Na-137 
K-3.4 Cl-103 HCO3-25 AnGap-12
___ 06:55AM BLOOD Glucose-116* UreaN-11 Creat-1.5* Na-138 
K-3.5 Cl-102 HCO3-26 AnGap-14
___ 03:30AM BLOOD Vanco-11.3
___ 01:30AM BLOOD Vanco-15.9
 
Brief Hospital Course:
The patient was admitted to the orthopaedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was remarkable for the following:

1. ID consult -> triple abx therapy (ceftriaxone, flagyl, and 
vancomycin x 6 weeks)
2. ___ consult -> home meds and bowel regimen
3. POD 1 - HCT 24.5 -> transfused 2 units PRBCs
4. ACS consult for c/o abd pain. CT showed colitis vs 
diverticulitis. Pt NPO and on braod spectrum antibiotics with 
resolution of symptoms. ADAT.

Otherwise, pain was initially controlled with a PCA followed by 
a transition to oral pain medications on POD#1.  The patient 
received lovenox for DVT prophylaxis starting on the morning of 
POD#1.  The foley was removed on POD#2 and the patient was 
voiding independently thereafter. The surgical dressing was 
changed on POD#2 and the surgical incision was found to be clean 
and intact without erythema or abnormal drainage. The patient 
was seen daily by physical therapy. Labs were checked throughout 
the hospital course and repleted accordingly. At the time of 
discharge the patient was tolerating a regular diet and feeling 
well.  The patient was afebrile with stable vital signs.  The 
patient's hematocrit was acceptable and pain was adequately 
controlled on an oral regimen. The operative extremity was 
neurovascularly intact and the wound was benign. 

The patient's weight-bearing status is NONWEIGHT BEARING on the 
operative extremity IN KNEE IMMOBILIZER AT ALL TIMES. 

Mr ___ is discharged to rehab in stable condition.

 
Medications on Admission:
ASA, calcium, diovan, doxazosin, folic acid, hctz, metoprolol, 
fish oil

 
Discharge Medications:
1. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for Pain.
Disp:*90 Tablet(s)* Refills:*0*
2. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous once a day for 3 weeks.
Disp:*21 syringe* Refills:*0*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. aspirin, buffered 325 mg Tablet Sig: One (1) Tablet PO twice 
a day for 3 weeks: AFTER completing all lovenox injections, 
please take 325mg aspirin twice daily with food for an 
additional 3 weeks.
Disp:*42 Tablet(s)* Refills:*0*
5. valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

6. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
8. metoprolol succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
9. doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
10. heparin, porcine (PF) 10 unit/mL Syringe Sig: Two (2) ML 
Intravenous PRN (as needed) as needed for line flush: Flush PICC 
per facility policy.  
11. sodium chloride 0.9 % 0.9 % Syringe Sig: Three (3) ML 
Injection Q8H (every 8 hours) as needed for line flush: Flush 
PICC per facility policy.  
12. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H 
(every 8 hours).  
13. vancomycin 500 mg Recon Soln Sig: Three (3) Recon Soln 
Intravenous Q 24H (Every 24 Hours) for 6 weeks.
Disp:*120 Recon Soln(s)* Refills:*0*
14. ceftriaxone in dextrose,iso-os 2 gram/50 mL Piggyback Sig: 
One (1) bag Intravenous Q24H (every 24 hours) for 6 weeks.
Disp:*40 bag* Refills:*0*
15. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 6 weeks.
Disp:*120 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
infected left knee

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.

2. Please follow up with your primary physician regarding this 
admission and any new medications and refills.  

3. Resume your home medications unless otherwise instructed.

4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.

5. You may not drive a car until cleared to do so by your 
surgeon or your primary physician.

6. Please keep your wounds clean. You may shower starting five 
(5) days after surgery, but no tub baths or swimming for at 
least four (4) weeks. No dressing is needed if wound continues 
to be non-draining. Any stitches or staples that need to be 
removed will be taken out at your follow-up appointment 3 weeks 
after your surgery.

7. Please call your surgeon's office to schedule or confirm your 
follow-up appointment in three (3) weeks after surgery.

8. Please DO NOT take any non-steroidal anti-inflammatory 
medications (NSAIDs such as celebrex, ibuprofen, advil, aleve, 
motrin, etc).

9. ANTICOAGULATION: Please continue your lovenox for three (3) 
weeks to help prevent deep vein thrombosis (blood clots).  After 
completing the lovenox, please take Aspirin 325mg  TWICE  daily 
for an additional three weeks.  ___ STOCKINGS x 6 WEEKS.

10. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower five days after surgery but no tub baths, 
swimming, or submerging your incision until after your four (4) 
week checkup. Please place a dry sterile dressing on the wound 
each day if there is drainage, otherwise leave it open to air. 
Check wound regularly for signs of infection such as redness or 
thick yellow drainage. Staples will be removed at your follow-up 
visit 3 weeks afetr surgery.

11. ___ (once at home): Home ___, dressing changes as instructed, 
and wound checks. Antibiotic administration via ___.

12. ACTIVITY: NWB LLE. NO ROM. KNEE IMMOBILIZER AT ALL TIMES.  
MOBILIZE.  No strenuous exercise or heavy lifting until follow 
up appointment.  Ambulate frequently as tolerated.

13. PICC: Infuse all antibiotics via PICC per facility 
protocols. Flush PICC per facility policy. All labs to be drawn 
off of PICC per facility policy. Check CBC, BUN/Cr, vanc trough, 
and LFTs every ___. ESR/CRP every other week.  Fax all 
results to ___.
Physical Therapy:
___ LLE
NO ROM
KNEE IMMOBILIZER AT ALL TIMES
PLEASE HELP WITH AMBULATION and ADLs
Treatments Frequency:
dry, sterile dressing change daily as needed for drainage
ice and elevate
wound checks
PICC
 - Antibiotic infusion
 - Draw labs off PICC per facility policy
 - Flush PICC per facility policy
Labs: Check CBC, BUN/Cr, vanc trough, and LFTs every ___. 
ESR/CRP every other week.  Fax all results to ___ 
(Attn ID RNs).
 
Followup Instructions:
___